US05310743
(2R*,4S*)-2-Benzyl-1-benzoyl-N- (4-quinolylmethyl)-N-trifluoroacetyl-4-piperidinamine
72 μl (0.515 mmol) of triethylamine and 54 μl (0.468 mmol) of benzoyl chloride are added to a solution of 200 mg (0.468 mmol) of (2R*,4S*)-2-benzyl-N-(4-quinolylmethyl)-N-trifluoroacetyl-4-piperidinamine in 4 ml of methylene chloride. The reaction mixture is stirred at 0° for 3 hours, water is added, extraction with methylene chloride is carried out. The organic phases are dried over magnesium sulfate and evaporated to dryness. The yellow oil is chromatographed on silica gel with methylene chloride/methanol/conc. ammonia (1000:50:1). The title compound is obtained as white foam. TLC: methylene chloride/methanol/conc. ammonia (700:50:1) Rf =0.72, FD-MS: M+ =531.

reactant | triethylamine | 0.515 mmol, 72 μl | C(C)N(CC)CC | C6H15N
reactant | benzoyl chloride | 0.468 mmol, 54 μl | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | (2R*,4S*)-2-benzyl-N-(4-quinolylmethyl)-N-trifluoroacetyl-4-piperidinamine | 0.468 mmol, 200 mg | C(C1=CC=CC=C1)[C@H]1NCC[C@@H](C1)N(C(C(F)(F)F)=O)CC1=CC=NC2=CC=CC=C12 | C24H24F3N3O
reactant | water | O | H2O
solvent | methylene chloride | 4 ml | C(Cl)Cl | CH2Cl2
product | (2R*,4S*)-2-Benzyl-1-benzoyl-N- (4-quinolylmethyl)-N-trifluoroacetyl-4-piperidinamine | C(C1=CC=CC=C1)[C@H]1N(CC[C@@H](C1)N(C(C(F)(F)F)=O)CC1=CC=NC2=CC=CC=C12)C(C1=CC=CC=C1)=O | C31H28F3N3O2
